US06734180B1
4-(2-indanylamino)pyrazolo[3,4-d]pyrimidine
Using 4-hydroxypyrazolo[3,4-d]pyrimidine (140 mg, 1.0 mmol), phosphorus oxichloride (3.0 ml), and dimethylaniline (0.39 ml, 3.1 μmol), and then 2-aminoindan (400 mg, 3.0 mmol), a similar procedure to Preparation Example 5 was carried out. The product obtained was purified by silica gel chromatography (hexane:ethyl acetate=5:2) to obtain the title compound (150 mg, 0.56 mmol) having the following physical properties:

reactant | 4-hydroxypyrazolo[3,4-d]pyrimidine | 1.0 mmol, 140 mg | OC1=C2C(=NC=N1)NN=C2 | C5H4N4O
reactant | phosphorus oxichloride | 3.0 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-aminoindan | 3.0 mmol, 400 mg | NC1CC2=CC=CC=C2C1 | C9H11N
catalyst | dimethylaniline | 3.1 μmol, 0.39 ml | CN(C1=CC=CC=C1)C | C8H11N
product | 4-(2-indanylamino)pyrazolo[3,4-d]pyrimidine | 0.56 mmol, 150 mg | C1C(CC2=CC=CC=C12)NC1=C2C(=NC=N1)NN=C2 | C14H13N5
